US07855227B2
Step C 2-[[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)amino]-N-ethyl-acetamide
105 mg (0.26 mmol) of 2-[[2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)amino]-acetic acid methyl ester were dissolved in 5 ml of dry toluene. 0.5 ml of a 2 M (1 mmol) solution of ethylamine in tetrahydrofuran were added at 0° C., followed by 0.4 ml (0.8 mmol) of a 2 M solution of trimethyl aluminium in heptane. The reaction was stirred for 4 hours at room temperature. The solution was cooled to 0° C. and poured into methanol. The solvent was removed and the crude product was purified by flash chromatography (ethyl acetate/hexane 0:100→85:15 gradient v:v) to obtain 52 mg (48% yield) of the title compound as a hygroscopic solid.

reactant | 2-[[2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)amino]-acetic acid methyl ester | 0.26 mmol, 105 mg | COC(CN(CC1CC1)CCC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)OC)=O | C23H28FNO4
reactant | ethylamine | C(C)N | C2H7N
reactant | trimethyl aluminium | C[Al](C)C
reactant | methanol | CO | CH4O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | 2-[[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)amino]-N-ethyl-acetamide | 52 mg, 48% yield | FC=1C=C(COC2=C(C=C(C=C2)CCN(CC(=O)NCC)CC2CC2)OC)C=CC1 | C24H31FN2O3
